US07230020B2
Reaction of 4-aminobenzophenone (100 mg, 0.51 mmol) in THF (6 mL) with m-anisoyl chloride (136 mg, 0.65 mmol) in presence of triethylamine (90 μL, 0.65 mmol) according to method A gave N-(4-benzoyl-phenyl)-3-methoxy-benzamide (160 mg, 0.48 mmol, 94% yield) as a white powder after purification by chromatography on silica gel (eluent EtOAc/DCM 0/100 to 5/95.

reactant | 4-aminobenzophenone | 0.51 mmol, 100 mg | NC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H11NO
reactant | m-anisoyl chloride | 0.65 mmol, 136 mg | C(C1=CC(=CC=C1)OC)(=O)Cl | C8H7ClO2
reactant | triethylamine | 0.65 mmol, 90 μL | C(C)N(CC)CC | C6H15N
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | N-(4-benzoyl-phenyl)-3-methoxy-benzamide | 0.48 mmol, 160 mg, 94% yield | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)NC(C1=CC(=CC=C1)OC)=O | C21H17NO3
